US08895602B1
tert-Butyl 2H-pyrrole-1(5H)-carboxylate
21.1 mL of methylene chloride was added to 3-pyrroline (2.7 mL, 30 mmol) under nitrogen atmosphere and di-tert-butyl dicarbonate (7.8 mL, 36.3 mmol) dissolved in 10.5 mL of methylene chloride was slowly added dropwsie at 0° C. 5 minutes later, the mixture was stirred at room temperature for 18 hours and 30 minutes. The completion of the reaction was confirmed by TLC (hexane:ethyl acetate=10:1). After the reaction was completed, the reaction mixture was concentrated under reduced pressure and separated by column chromatography (hexane:ethyl acetate=10:1) to obtain 5.1 g (100%) of the target compound.

reactant | 3-pyrroline | 30 mmol, 2.7 mL | N1CC=CC1 | C4H7N
reactant | di-tert-butyl dicarbonate | 36.3 mmol, 7.8 mL | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | hexane | CCCCCC | C6H14
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methylene chloride | 10.5 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 21.1 mL | C(Cl)Cl | CH2Cl2
product | tert-Butyl 2H-pyrrole-1(5H)-carboxylate | 5.1 g, 100% | N1(CC=CC1)C(=O)OC(C)(C)C | C9H15NO2
